US04749791
16.2 g of acrylamide and 0.9 g of anhydrous p-toluenesulphonic acid were added to 30.6 g of 1-(6,8-dichloro-3,4-dihydro-2(1H)-naphthyl)pyrrolidine. The mixture was heated under nitrogen to 100° for 2 hours and to 150° for 2 hours. After cooling, the reaction mixture was stirred at room temperature in 80 ml of a mixture of chloroform-ethyl acetate (1:1). There was obtained 8,10-dichloro-1,4,5,6-tetrahydrobenzo[f]quinolin-3(2H)-one which melts at 212°-214° after recrystallization from ethyl acetate.

reactant | acrylamide | 16.2 g | C(C=C)(=O)N | C3H5NO
reactant | p-toluenesulphonic acid | 0.9 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1-(6,8-dichloro-3,4-dihydro-2(1H)-naphthyl)pyrrolidine | 30.6 g | ClC=1C=C2CCC(CC2=C(C1)Cl)N1CCCC1 | C14H17Cl2N
solvent | chloroform ethyl acetate | C(Cl)(Cl)Cl.C(C)(=O)OCC
product | 8,10-dichloro-1,4,5,6-tetrahydrobenzo[f]quinolin-3(2H)-one | ClC1=CC2=C(C=3CCC(NC3CC2)=O)C(=C1)Cl | C13H11Cl2NO
